US04412074
Example 1: Preparation of 2-methyl-4,6-dihydroxy-5-methylsulfonylpyrimidine
16 g (0.1 mole) of 2-methyl-5-chloro-4,6-dihydroxypyrimidine and 11.2 g (0.11 mole) of sodium methylsulfinate are stirred in 50 ml of dimethyl sulfoxide for 4 hours at 125°-130° C. The suspension is filtered clear at 90° C. and chloroform is added to the filtrate. The flocculent precipitate is isolated by filtration and well dried, affording 9.4 g of approx. 90% product which is used for the further reaction without being purified.

reactant | 2-methyl-5-chloro-4,6-dihydroxypyrimidine | 0.1 mole, 16 g | CC1=NC(=C(C(=N1)O)Cl)O | C5H5ClN2O2
reactant | sodium methylsulfinate | 0.11 mole, 11.2 g | CS(=O)[O-].[Na+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-methyl-4,6-dihydroxy-5-methylsulfonylpyrimidine | approx. 90% | CC1=NC(=C(C(=N1)O)S(=O)(=O)C)O | C6H8N2O4S
